US07622583B2
4-tert-Butyl-N-[5-chloro-2-(6-fluoro-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-benzenesulfonamide was prepared from N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide and 6-fluoro-pyridine-3-carbaldehyde using the procedure described in examples 35 and 36.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)COC)Cl | C17H20BrClN2O3S
reactant | 6-fluoro-pyridine-3-carbaldehyde | FC1=CC=C(C=N1)C=O | C6H4FNO
product | 4-tert-Butyl-N-[5-chloro-2-(6-fluoro-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-benzenesulfonamide | 38% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C=1C=NC(=CC1)F | C23H23ClFN3O4S
